US07319104B2
2-{4-[2-([4-(2-cyclopropyl-1,3-oxazol-4-yl)benzyl]{5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}amino)ethyl]phenoxy}-2-methylpropanoic acid
To a solution of ethyl 2-{4-[2-([4-(2-cyclopropyl-1,3-oxazol-4-yl)benzyl]{5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}amino)ethyl]phenoxy}-2-methylpropanoate (93 mg, 0.14 mmol) in anhydrous THF (1.5 ml) was added EtOH (0.4 ml), water (0.4 ml), and LiOH (31 mg, 1.28 mmol). The mixture was stirred at rt for 12 h. The reaction was quenched with a solution of saturated aqueous KH2PO4, and the aqueous phase was extracted with EtOAc (3×20 ml). The combined organic phases were dried with Na2SO4 and concentrated in vacuo to yield the title compound as a colorless solid (58 mg, 65%). 1H NMR (CDCl3) δ 8.34 (s, 1H), 8.26 (d, 1H, J=7.9), 7.80 (d, 1H, J=7.8), 7.65 (s, 1H), 7.62 (d, 1H, J=8.0), 7.40 (d, 2H, J=8.1), 6.92 (d, 2H, J=8.3), 6.81 (d, 2H, J=8.5), 6.65 (d, 2H, J=8.4), 4.53 (s, 2H), 3.63 (t, 2H, J=6.2), 2.92 (t, 2H, J=6.4), 2.21 (m, 1H), 1.58 (s, 6H), 1.19–1.06 (m, 4H). MS: m/z 633 (M+1).

reactant | ethyl 2-{4-[2-([4-(2-cyclopropyl-1,3-oxazol-4-yl)benzyl]{5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}amino)ethyl]phenoxy}-2-methylpropanoate | 0.14 mmol, 93 mg | C1(CC1)C=1OC=C(N1)C1=CC=C(CN(CCC2=CC=C(OC(C(=O)OCC)(C)C)C=C2)C2=NOC(=N2)C2=CC(=CC=C2)C(F)(F)F)C=C1 | C36H35F3N4O5
reactant | EtOH | 0.4 ml | CCO | C2H6O
reactant | water | 0.4 ml | O | H2O
reactant | LiOH | 1.28 mmol, 31 mg | [Li+].[OH-]
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
product | 2-{4-[2-([4-(2-cyclopropyl-1,3-oxazol-4-yl)benzyl]{5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}amino)ethyl]phenoxy}-2-methylpropanoic acid | 58 mg, 65% | C1(CC1)C=1OC=C(N1)C1=CC=C(CN(CCC2=CC=C(OC(C(=O)O)(C)C)C=C2)C2=NOC(=N2)C2=CC(=CC=C2)C(F)(F)F)C=C1 | C34H31F3N4O5
